US08648202B2
Bis(pentafluoroethyl)phosphinous acid
29 mmol of a 1.5 molar aqueous sodium hydroxide solution are added to a solution of 5.2 g (13.3 mmol) of tris(pentafluoroethyl)phosphine in 50 ml of diethyl ether, and the mixture is stirred at room temperature for 15 minutes. After removal of the aqueous phase, 50 ml of 1,6-dibromohexane are added, and all volatile constituents are removed overnight in vacuo. The reaction mixture is reacted with 13 mmol of HBr, and the product is separated off from the reaction mixture by means of fractional condensation (3 cold traps at −30° C., −78° C. and −196° C.). The compound is stable at room temperature under inert-gas conditions.

reactant | sodium hydroxide | 1.5 molar | [OH-].[Na+]
reactant | tris(pentafluoroethyl)phosphine | 13.3 mmol, 5.2 g | FC(C(F)(F)F)(F)P(C(C(F)(F)F)(F)F)C(C(F)(F)F)(F)F | C6F15P
reactant | HBr | 13 mmol | Br | BrH
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | Bis(pentafluoroethyl)phosphinous acid | FC(C(F)(F)F)(F)P(O)C(C(F)(F)F)(F)F | C4HF10OP
